US09334279B2
To a 2 dram vial equipped with a stir bar was added 4-fluoro-6-(thiazol-2-yl)pyridin-2-ol (35 mg, 0.18 mmol) as a solution in DMF (1 mL). To the vial was added K2CO3 (49 mg, 0.36 mmol), then iodomethane (25 μL, 0.40 mmol). The vial was capped with a PTFE-lined cap and then placed in a 40° C. heating block with stirring for 2 h. The reaction mixture was transfered to a 125 mL separatory funnel and was diluted with water (25 mL). The mixture was extracted with CH2Cl2 (2×25 mL). The combined organics were dried over MgSO4; filtered; the concentrated in vacuo. The resulting residue was subjected to SiO2 column chromatography (hexanes:EtOAc, 100:0 to 50:50) to afford 2-(4-fluoro-6-methoxypyridin-2-yl)thiazole as a white solid (31 mg, 82%). 1H-NMR (500 MHz, CDCl3) δ 7.92 (d, J=3.2 Hz, 1H), 7.66 (dd, J=1.9, 1.1 Hz, 1H), 7.48 (d, J=3.3 Hz, 1H), 6.44 (d, J=2.0 Hz, 1H), 3.97 (s, 3H).

reactant | 4-fluoro-6-(thiazol-2-yl)pyridin-2-ol | 0.18 mmol, 35 mg | FC1=CC(=NC(=C1)C=1SC=CN1)O | C8H5FN2OS
reactant | K2CO3 | 0.36 mmol, 49 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.40 mmol, 25 μL | IC | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 2-(4-fluoro-6-methoxypyridin-2-yl)thiazole | 31 mg, 82% | FC1=CC(=NC(=C1)OC)C=1SC=CN1 | C9H7FN2OS
